US07655666B2
A solution of 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester (2.0 g, 5.80 mmol), tetrahydro-2-(2-propynyloxy)-2H-pyran (2.44 mL, 17.4 mmol), copper iodide (55.0 mg, 0.29 mmol) and bis(triphenylphosphine)palladium (II) dichloride (407 mg, 0.58 mmol) in dioxane (15 mL) and Et3N (15 mL) was heated to reflux for 16 h under nitrogen. The mixture was then allowed to cool to r.t., filtered and the filtrate was diluted with AcOEt. This mixture was washed once with water. The organic phase was then dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel 60, hexanes/EtOAc 5:1) to give an orange oil, which was recrystallized in hexanes to provide 2-amino-5-[3-(tetrahydro-pyran-2-yloxy)-prop-1-ynyl]-4-trifluoromethyl-benzoic acid methyl ester (1.50 g, 4.20 mmol, 72%) as a pale brown powder, m.p. 88° C., ESI-MS: m/z 358 [M+H]+.

reactant | 2-amino-5-iodo-4-trifluoromethyl-benzoic acid methyl ester | 5.80 mmol, 2.0 g | COC(C1=C(C=C(C(=C1)I)C(F)(F)F)N)=O | C9H7F3INO2
reactant | tetrahydro-2-(2-propynyloxy)-2H-pyran | 17.4 mmol, 2.44 mL | C(C#C)OC1OCCCC1 | C8H12O2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | Et3N | 15 mL | CCN(CC)CC | C6H15N
catalyst | copper iodide | 0.29 mmol, 55.0 mg | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium | 0.58 mmol, 407 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | 2-amino-5-[3-(tetrahydro-pyran-2-yloxy)-prop-1-ynyl]-4-trifluoromethyl-benzoic acid methyl ester | 4.20 mmol, 1.50 g, 72% | COC(C1=C(C=C(C(=C1)C#CCOC1OCCCC1)C(F)(F)F)N)=O | C17H18F3NO4
